US08138189B2
Step 2: 3′-Chloro-3-fluoro-4′-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl-propyl)-biphenyl-4-carboxylic acid methyl ester
To a suspension of trifluoromethanesulfonic acid 3-chloro-4-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl-propyl)-phenyl ester (86 mg), 3-fluoro-4-methoxycarbonylphenyl-boronic acid (50 mg) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]dichloromethane adduct (7 mg) in dioxane (0.5 ml) under argon were added water (0.4 ml) and a 2 M aqueous sodium carbonate solution (0.25 ml). The mixture was stirred at 80° C. for 5 h. The mixture was filtered and to the filtrate was added water. The mixture was extracted with EtOAc. The organic phase was dried (MgSO4), filtered and concentrated. The product was purified by chromatography (SiO2, cyclohexane/EtOAc 1:0=>2:3) to give the title compound (12 mg) as a colorless solid.

reactant | trifluoromethanesulfonic acid 3-chloro-4-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl-propyl)-phenyl ester | 86 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=C2C=CN=CC2=CC=C1)O)C)OS(=O)(=O)C(F)(F)F | C20H14ClF6NO4S
reactant | 3-fluoro-4-methoxycarbonylphenyl-boronic acid | 50 mg | FC=1C=C(C=CC1C(=O)OC)B(O)O | C8H8BFO4
reactant | water | 0.4 ml | O | H2O
reactant | sodium carbonate | 2 M, 0.25 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | 3′-Chloro-3-fluoro-4′-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl-propyl)-biphenyl-4-carboxylic acid methyl ester | 12 mg | COC(=O)C1=C(C=C(C=C1)C1=CC(=C(C=C1)C(C(C(F)(F)F)(C1=C2C=CN=CC2=CC=C1)O)C)Cl)F | C27H20ClF4NO3
